US08859588B2
4-((S)-2-Methyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester
A solution of 4-(toluene-4-sulfonyloxy)-piperidine-1-carboxylic acid tert-butyl ester (8.1 g, 22.8 mmol), (S)-(+)-2-methylpyrrolidine (2.33 g, 27.36 mmol), K2CO3 (6.93 g, 50.16 mmol) in acetonitrile (76 mL) was heated to 80° C. for 20 h and then added additional (S)-(+)-2-methylpyrrolidine (834 mg, 9.79 mmol), and continued heating for 20 h. The heating was removed and the solution was concentrated to provide a residue which was taken up with H2O (100 mL) and extracted with CH2Cl2 (2×100 mL). The organic layer was dried over K2CO3, filtered and concentrated to provide a crude oil which was purified by flash column chromatography (0 to 5% MeOH/CH2Cl2) to provide 2.43 g (40% yield) of the title compound as a solid.

reactant | 4-(toluene-4-sulfonyloxy)-piperidine-1-carboxylic acid tert-butyl ester | 22.8 mmol, 8.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO5S
reactant | (S)-(+)-2-methylpyrrolidine | 27.36 mmol, 2.33 g | C[C@@H]1NCCC1 | C5H11N
reactant | K2CO3 | 50.16 mmol, 6.93 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (S)-(+)-2-methylpyrrolidine | 9.79 mmol, 834 mg | C[C@@H]1NCCC1 | C5H11N
reactant | H2O | 100 mL | O | H2O
solvent | acetonitrile | 76 mL | C(C)#N | C2H3N
product | 4-((S)-2-Methyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 2.43 g, 40% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)N1[C@H](CCC1)C | C15H28N2O2
